US03932431
Add 5 g. of 1-methyl-2-(2-pyridylbenzyl)imidazoline and 25 ml. of dimethyl sulfoxide to a solution of potassium t-butylate (prepared from 1.4 g. of potassium and 200 ml. of t-butanol) and stir the resulting solution in a stream of dry air for 30 hrs. Add 2.1 ml. of acetic acid to the resulting mixture and remove the alcohol in vacuo. Shake the residue with 200 ml. of benzene and 50 ml. of cooled 5% sodium carbonate. Separate the benzene phase, water-wash, dry, filter and evaporate in vacuo. Recrystallize the residue from isopropanol acetate to yield 1-methyl-2[α(-2-pyridyl)hydroxybenzyl] imidazoline, m.p. 105°-108° C.

reactant | 1-methyl-2-(2-pyridylbenzyl)imidazoline | CN1C(=NCC1)C(C1=CC=CC=C1)C1=NC=CC=C1 | C16H17N3
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 1-methyl-2[α(-2-pyridyl)hydroxybenzyl] imidazoline | CN1C(=NCC1)C(C1=CC=CC=C1)(C1=NC=CC=C1)O | C16H17N3O
